US06800785B1
To a solution of 5-methoxy-1-indanone (2.5 g, 15.4 mmol) in DMF (20 mL) at rt was added NaH (1.8 g, 61% in oil, 46.2 mmol) and 5-bromo-1-pentene (5.48 mL, 46.2 mmol). After 6 h at rt, the solution was diluted with CH2Cl2 and quenched with saturated aqueous NH4Cl. The slurry was dried with MgSO4 and filtered through a plug of silica and rinsed with 10% EtOAc in hexanes. The filtrate was concentrated and provided crude 2,2-di(4-pentenyl)-5-methoxy-1-indanone.

reactant | 5-methoxy-1-indanone | 15.4 mmol, 2.5 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | NaH | 46.2 mmol, 1.8 g | [H-].[Na+]
reactant | 5-bromo-1-pentene | 46.2 mmol, 5.48 mL | BrCCCC=C | C5H9Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-di(4-pentenyl)-5-methoxy-1-indanone | C(CCC=C)C1(C(C2=CC=C(C=C2C1)OC)=O)CCCC=C | C20H26O2
